### PR TITLE
[Merged by Bors] - chore(Data.NNRat.Defs): split file into unbundled and bundled ordered algebra 

### PR DESCRIPTION
**Pull request by mattrobball**
We split off the `CanonicallyOrderedCommSemiring`, `CanonicallyLinearOrderedAddCommMonoid`, and `OrderedSub` instances on `NNRat` to `Data.NNRat.Order` leaving the remainder independent of bundled ordered algebra classes.

---

- [x] depends on: #15071

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mattrobball** [comment]
!bench

**Comment by mattrobball** [comment]
!bench

File: Mathlib/Data/NNRat/Defs.lean [hunk 1]
```diff
@@ -45,13 +46,23 @@ un``@[simp]``ed):
...
 
-deriving instance CanonicallyOrderedCommSemiring for NNRat
-deriving instance CanonicallyLinearOrderedAddCommMonoid for NNRat
+instance Rat.instZeroLEOneClass : ZeroLEOneClass ℚ where
+  zero_le_one := rfl
+
+instance Rat.instPosMulMono : PosMulMono ℚ where
+  elim := fun r p q h => by
+    simp only [mul_comm]
+    simpa [sub_mul, sub_nonneg] using Rat.mul_nonneg (sub_nonneg.2 h) r.2
```
Comment (j-loreaux) [inline Mathlib/Data/NNRat/Defs.lean:55]: These are new, right, because they are unbundled and before we didn't have `NNRat` with unbundled ordered algebraic classes? If so, just :+1: and resolve.

File: Mathlib/Data/NNRat/Defs.lean [hunk 2]
```diff
@@ -45,13 +46,23 @@ un``@[simp]``ed):
...
+
+deriving instance CommSemiring for NNRat
+-- deriving instance CanonicallyOrderedCommSemiring for NNRat
+-- deriving instance CanonicallyLinearOrderedAddCommMonoid for NNRat
```
Comment (j-loreaux) [inline Mathlib/Data/NNRat/Defs.lean:59]:
```suggestion
```

File: Mathlib/Data/NNRat/Defs.lean [hunk 3]
```diff
@@ -45,13 +46,23 @@ un``@[simp]``ed):
...
+deriving instance LinearOrder for NNRat
 deriving instance Sub for NNRat
 deriving instance Inhabited for NNRat
 
 -- TODO: `deriving instance OrderedSub for NNRat` doesn't work yet, so we add the instance manually
```
Comment (j-loreaux) [inline Mathlib/Data/NNRat/Defs.lean:64]:
```suggestion
```

File: Mathlib/Data/NNRat/Defs.lean [hunk 4]
```diff
@@ -45,13 +46,23 @@ un``@[simp]``ed):
...
-instance NNRat.instOrderedSub : OrderedSub ℚ≥0 := Nonneg.orderedSub
+-- instance NNRat.instOrderedSub : OrderedSub ℚ≥0 := Nonneg.orderedSub
```
Comment (j-loreaux) [inline Mathlib/Data/NNRat/Defs.lean:66]:
```suggestion
```

File: Mathlib/Data/NNRat/Defs.lean [hunk 5]
```diff
@@ -212,6 +223,10 @@ theorem sub_def (p q : ℚ≥0) : p - q = toNNRat (p - q) :=
 theorem abs_coe (q : ℚ≥0) : |(q : ℚ)| = q :=
   abs_of_nonneg q.2
 
+@[simp 1100]
```
Comment (j-loreaux) [inline Mathlib/Data/NNRat/Defs.lean:226]: Can you add a note explaining the increased priority?

Comment (mattrobball) [reply Mathlib/Data/NNRat/Defs.lean:221]: Will do. I'll be back at a computer in 15-30 minutes

Comment (mattrobball) [reply Mathlib/Data/NNRat/Defs.lean]: Yael added a library note for this. I referenced that and just made the priority `high` for simplicity.

Comment (mattrobball) [reply Mathlib/Data/NNRat/Defs.lean]: Done

**Comment by j-loreaux** [comment]
Thanks!

bors merge
